US07064124B2
N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzoyl]-4-(trifluoromethylsulfonyl)aniline
An aqueous saturated sodium hydrogencarbonate solution (7 ml) was added to a methanol solution (15 ml) of N-[4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-(trifluoromethylsulfonyl)aniline (114 mg, 0.196 mmol) and the resulting solution was stirred for 1 hour. The reaction solution was extracted with ethyl acetate, then washed with water and dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (hexand:ethyl acetate=4:1) to obtain the titled compound (35 mg, 0.065 mmol, 33%).

reactant | sodium hydrogencarbonate | 7 ml | C(O)([O-])=O.[Na+]
reactant | N-[4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-(trifluoromethylsulfonyl)aniline | 0.196 mmol, 114 mg | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)C(F)(F)F)C=C1)OC(C)=O)C)=O | C26H22F3NO9S
solvent | methanol | 15 ml | CO | CH4O
product | N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzoyl]-4-(trifluoromethylsulfonyl)aniline | 0.065 mmol, 35 mg, 33% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)NC2=CC=C(C=C2)S(=O)(=O)C(F)(F)F)C=C1)O)C)=O | C24H20F3NO8S
